US04638000
In 1.5 ml of acetic acid is dissolved 0.3 g of tertbutyl 3(R)-[7-(1-benzyloxycarbonyl-4-piperidyl)-1(S)-ethoxycarbonylheptyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate, and 1 ml of 30% hydrogen-bromide acetic acid solution is added to the solution, followed by allowing the mixture to stand at room temperature for 0.5 hour. Ethyl ether (80 ml) is added to the reaction solution, which is then allowed to stand. The supernatant liquid is decanted, and the precipitate is dissolved in 10 ml of 1N aqueous sodium hydroxide solution, followed by allowing the solution to stand at room temperature for 30 minutes. The solution is neutralized with 2 ml of acetic acid, and purified by XAD-2 column chromatography (water:methanol=1:1). The eluent is concentrated under reduced pressure, and the residue is lyophilized to give 0.1 g of 3(R)-[1(S)-carboxy-7-(4-piperidyl)heptyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid as a colorless powder.

reactant | tertbutyl 3(R)-[7-(1-benzyloxycarbonyl-4-piperidyl)-1(S)-ethoxycarbonylheptyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 0.3 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCCC[C@@H](C(=O)OCC)N[C@H]1CSC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C38H53N3O7S
reactant | hydrogen-bromide acetic acid | 1 ml | C(C)(=O)O.Br
reactant | Ethyl ether | 80 ml | C(C)OCC | C4H10O
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
product | 3(R)-[1(S)-carboxy-7-(4-piperidyl)heptyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid | 0.1 g | C(=O)(O)[C@H](CCCCCCC1CCNCC1)N[C@H]1CSC2=C(N(C1=O)CC(=O)O)C=CC=C2 | C24H35N3O5S
